US07935815B2
Synthesis of benzyl (3,4,5-trifluorophenyl)acetate
Triethylamine (0.808 mL) and benzyl chloroformate (0.752 mL) were sequentially added dropwise to a solution of 3,4,5-trifluorophenylacetic acid (1 g) in methylene chloride (15 mL) at 0° C., and the reaction solution was stirred at 0° C. for five minutes. DMAP (64.4 mg) was added to the reaction solution which was then stirred at 0° C. for 30 minutes. Ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 1.43 g of the title compound. The property values of the compound are as follows.

reactant | Triethylamine | 0.808 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 0.752 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 3,4,5-trifluorophenylacetic acid | 1 g | FC=1C=C(C=C(C1F)F)CC(=O)O | C8H5F3O2
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 64.4 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl (3,4,5-trifluorophenyl)acetate | 1.43 g | FC=1C=C(C=C(C1F)F)CC(=O)OCC1=CC=CC=C1 | C15H11F3O2
